US07144894B2
5-Bromo-1-t-butyloxycarbonylindoline (2.0 g, 6.7 mmol) and DMF (0.53 mL, 6.7 mmol), were dissolved in THF (30 mL) and the resulting solution was cooled to −78° C. with stirring under a nitrogen atmosphere. A solution of t-butyllithium in pentane (1.7 M, 10.3 mL, 17.5 mmol) was added dropwise over 5 min. The reaction mixture was stirred for 2 h; then HOAc (3 mL) was added. The cloudy mixture was warmed to ambient temperature over 30 min and diluted with EtOAc (100 mL). Successive washings with a saturated Na2CO3 solution (2×10 mL) and then brine (10 mL) were performed. Drying over Na2SO4, filtration and removal of solvent in vacuo gave an oil. Column chromatography (EtOAc:hexane: 1:9, then 1:1) and removal of solvent in vacuo provided two products, both were white solids: (1) 1-t-butyloxycarbonylindoline (270 mg, 18% yield): 1H NMR (CDCl3, 300 MHz): 7.18–7.10 (m, 2H), 6.92 (t, 1H, J=7), 3.97 (t, 2H, J=7), 3.08 (t, 3H, J=7), 1.57 (s, 9H); MS (APCI+): 220 (C13H18NO2, M++H) and (2) the title product (650 mg, 39% yield): 1H NMR (CDCl3, 300 MHz): 9.86 (s, 1H), 7.9 (br s, 1H), 7.70–7.65 (m, 2H), 4.06 (t, 2H, J=7), 3.15 (t, 2H, J=7), 1.58 (s, 9H); MS (ES+): 248 (C14H18NO3, M++H).

reactant | 5-Bromo-1-t-butyloxycarbonylindoline | 6.7 mmol, 2.0 g | BrC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16BrNO2
reactant | DMF | 6.7 mmol, 0.53 mL | CN(C)C=O | C3H7NO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 17.5 mmol, 1.7 M, 10.3 mL | CCCCC | C5H12
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | HOAc | 3 mL | CC(=O)O | C2H4O2
product | 1-t-butyloxycarbonylindoline | 270 mg, 18% yield | C(C)(C)(C)OC(=O)N1CCC2=CC=CC=C12 | C13H17NO2
